US06559173B1
5-Fluoro-3-[(5-methyl-1H-pyrazol-3-ylamino)-methylene]-1,3-dihydro-indol-2-one
The named compound is prepared by substituting E & Z-3-[(hydroxy)-methylene]-5-fluoro-1,3-dihydro-indol-2-one for E & Z-3-[(hydroxy)-methylene]-1,3-dihydro-indol-2-one and 5-methyl-1H-pyrazol-3-ylamine for 3-aminopyrazole in the reaction of Example 1. Specifically, E & Z-3-[(hydroxy)-methylene]-5-fluoro-1,3-dihydro-indol-2-one (0.050 gms.) is reacted with 0.055 gms. of 5-methyl-1H-pyrazol-3-ylamine by refluxing in tetrahydrofuran (1.5 mL).

reactant | Z-3-[(hydroxy)-methylene]-5-fluoro-1,3-dihydro-indol-2-one | O\C=C\1/C(NC2=CC=C(C=C12)F)=O | C9H6FNO2
reactant | Z-3-[(hydroxy)-methylene]-1,3-dihydro-indol-2-one | O\C=C\1/C(NC2=CC=CC=C12)=O | C9H7NO2
reactant | 5-methyl-1H-pyrazol-3-ylamine | CC1=CC(=NN1)N | C4H7N3
reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
reactant | Z-3-[(hydroxy)-methylene]-5-fluoro-1,3-dihydro-indol-2-one | 0.050 gms | O\C=C\1/C(NC2=CC=C(C=C12)F)=O | C9H6FNO2
solvent | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
product | 5-Fluoro-3-[(5-methyl-1H-pyrazol-3-ylamino)-methylene]-1,3-dihydro-indol-2-one | FC=1C=C2C(C(NC2=CC1)=O)=CNC1=NNC(=C1)C | C13H11FN4O
